US07872009B2
Step 1: (±)-Ethyl 4-methyl-3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylate
In a sealable vessel, potassium carbonate (56 mg, 0.41 mmol) was added to a solution of (±)-ethyl 3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylate (60 mg, 0.29 mmol) and iodomethane (22 □L, 0.35 mmol) in acetone (2 mL). The vessel was sealed and the reaction mixture was stirred at 60° C. for 24 h. The mixture was cooled to ambient temperature, diluted with dichloromethane (60 mL), and the organic layer was extracted with water (10 mL) and half-saturated brine (10 mL). The organic layer was dried over sodium sulfate and concentrated. Purification of the concentrate by flash column chromatography (5% to 10% EtOAc/hexane) afforded the title compound (43 mg, 0.19 mmol). MS m/z: 222 (M+1).

reactant | potassium carbonate | 0.41 mmol, 56 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (±)-ethyl 3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylate | 0.29 mmol, 60 mg | O1C2=C(NCC1C(=O)OCC)C=CC=C2 | C11H13NO3
reactant | iodomethane | 0.35 mmol | IC | CH3I
solvent | acetone | 2 mL | CC(=O)C | C3H6O
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | (±)-Ethyl 4-methyl-3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylate | 0.19 mmol, 43 mg | CN1C2=C(OC(C1)C(=O)OCC)C=CC=C2 | C12H15NO3
